US08026237B2
To a solution of 4-methyl-5-(2-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid methyl ester (2.9 g, 10.2 mmol) in anhyd THF (40 mL) was added lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 12.3 mL, 12.3 mmol) slowly at 20° C. After stirring 0.5h, iodomethane (0.96 mL, 15.4 mmol) was added and the mixture was stirred for 3 h at 20° C. After quenching with water, the organic layer was separated and the aqueous layer was extracted with EtOAc. The combined extracts were washed with water, dried (anhyd Na2SO4) and concentrated under reduced pressure to yield 1,4-dimethyl-5-(2-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid methyl ester as an oil (2.8 g, 92%), which was used in the next step without purification. MS (ES): 298 (MH+). To a solution of 4-methyl-5-(2-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid methyl ester (2.9 g, 10.2 mmol) in anhyd THF (40 mL) was added lithium bis(trimethylsilyl)amide C.

reactant | 4-methyl-5-(2-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid methyl ester | 10.2 mmol, 2.9 g | COC(=O)C1=CNC(=C1C)C1=C(C=CC=C1)C(F)(F)F | C14H12F3NO2
reactant | lithium bis(trimethylsilyl)amide | 12.3 mmol, 1.0 M, 12.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | iodomethane | 15.4 mmol, 0.96 mL | IC | CH3I
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1,4-dimethyl-5-(2-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid methyl ester | 2.8 g, 92% | COC(=O)C1=CN(C(=C1C)C1=C(C=CC=C1)C(F)(F)F)C | C15H14F3NO2
